US04977272
0.35 mol diphosgene is added dropwise over 1 hour to a mixture of 0.28 mol of isoleucine allyl ester, prepared as described by H. Waldmann and H. Kunz in Liebigs Ann. Chem., 1983, 1712-1725, and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is re-dissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the product is purified by fractional distillation to give isoleucine allyl ester isocyanate.

reactant | diphosgene | 0.35 mol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | isoleucine allyl ester | 0.28 mol | C(C=C)OC([C@@H](N)[C@@H](C)CC)=O | C9H17NO2
reactant | charcoal | C | CH4
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | isoleucine allyl ester isocyanate | [N-]=C=O.C(C=C)OC([C@@H](N)[C@@H](C)CC)=O | InChI=1S/C9H17NO2.CNO/c1-4-6-12-9(11)8(10)7(3)5-2;2-1-3/h4,7-8H,1,5-6,10H2,2-3H3;/q;-1/t7-,8-;/m0./s1
